US06605626B2
Preparation of 2-(4-Dimethylaminobenzoylamino)-N-(4-methoxyphenyl)benzamide
Using the procedure described in Example 55, Part B, 4-dimethylaminobenzoic acid and 2-amino-N-(4-methoxyphenyl)benzamide (1.25 mmol), yielded 444 mg (91%) of the title compound as a white solid.

reactant | 4-dimethylaminobenzoic acid | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | 2-amino-N-(4-methoxyphenyl)benzamide | 1.25 mmol | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1 | C14H14N2O2
product | 2-(4-Dimethylaminobenzoylamino)-N-(4-methoxyphenyl)benzamide | 444 mg, 91% | CN(C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC=C2)C=C1)C | C23H23N3O3
